US09193717B2
Step A: Diethylbenzyl[(tert-butoxycarbonyl)amino]propanedioate
To diethyl[(tert-butoxycarbonyl)amino]propanedioate (5.56 mL, 21.79 mmol) in ethanol (30 ml) was added sodium ethoxide (9.76 ml, 26.2 mmol) followed by benzyl bromide (2.59 mL, 21.79 mmol). The mixture was stirred for 6 h, and the solvent was removed in vacuo. Saturated aqueous sodium hydrogen carbonate (50 mL) was added and the mixture was extracted with ethyl acetate (3×50 mL). The combined organic fractions were washed with saturated aqueous brine (1×50 mL), dried with anhydrous sodium sulfate, filtered and the solvent removed in vacuo to afford the title compound as a colorless amorphous solid. LC/MS 366.1 (M+1).

reactant | diethyl[(tert-butoxycarbonyl)amino]propanedioate | 21.79 mmol, 5.56 mL | C(C)OC(C(C(=O)OCC)NC(=O)OC(C)(C)C)=O | C12H21NO6
reactant | sodium ethoxide | 26.2 mmol, 9.76 ml | [O-]CC.[Na+]
reactant | benzyl bromide | 21.79 mmol, 2.59 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | Diethylbenzyl[(tert-butoxycarbonyl)amino]propanedioate | C(C)OC(C(C(=O)OCC)(NC(=O)OC(C)(C)C)CC1=CC=CC=C1)=O | C19H27NO6
